US07323455B2
5-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1-methyl-1H-pyrrole-2-carbonitrile
Prepared from 5-(5,5-dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-2-carbonitrile and iodomethane generally according to the procedure of example 3. 1H-NMR (DMSO-d6) δ 10.06 (s, 1H), 7.40 (d, J=1.87 Hz, 1H), 7.34 (dd, J=1.87, 8.32 Hz, 1H), 7.20 (d, J=8.38 Hz, 1H), 7.03 (d, J=3.99 Hz, 1H), 6.35 (d, J=4.00, 1H), 4.27 (s, 2H), 3.71 (s, 3H), 1.58 (s, 6H); MS (FI) m/z 294 ([M−H]−, 100%)

reactant | 5-(5,5-dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-2-carbonitrile | CC1(OCC(NC2=C1C=C(C=C2)C2=CC=C(N2)C#N)=O)C | C16H15N3O2
reactant | iodomethane | IC | CH3I
product | 5-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1-methyl-1H-pyrrole-2-carbonitrile | CC1(OCC(NC2=C1C=C(C=C2)C2=CC=C(N2C)C#N)=O)C | C17H17N3O2
